US07361654B2
To a solution of 9-cyano-9,10-dihydro-11-methyl-9,10-ethanoanthracene-11-carboxylic acid (hereafter called Core A) (5.26 g, 18.2 mmol) and pyridine (2.2 mL, 27.0 mmol) in 10 mL of DCM was added a solution of cyanuric fluoride (2.14 g, 27.0 mmol) dropwise. After stirring 30 min, the reaction was diluted with 1N HCl, and extracted 2×DCM. The DCM extracts were dried over MgSO4. The solution was filtered, concentrated by rotary evaporator to give 4.8 g (91%) of 9-cyano-9,10-dihydro-11-methyl-9,10-ethano-anthracene-11-carboxylic acid fluoride, Core B. MS found: (M+H)+=292.

reactant | 9-cyano-9,10-dihydro-11-methyl-9,10-ethanoanthracene-11-carboxylic acid | C(#N)C12C3=CC=CC=C3C(C=3C=CC=CC13)C(C2)(C(=O)O)C | C19H15NO2
reactant | pyridine | 27.0 mmol, 2.2 mL | N1=CC=CC=C1 | C5H5N
reactant | cyanuric fluoride | 27.0 mmol, 2.14 g | N1=C(F)N=C(F)N=C1F | C3F3N3
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | HCl | 1N | Cl | ClH
product | 9-cyano-9,10-dihydro-11-methyl-9,10-ethano-anthracene-11-carboxylic acid fluoride | 4.8 g, 91% | C(#N)C12C3=CC=CC=C3C(C=3C=CC=CC13)C(C2)(C(=O)F)C | C19H14FNO
